US06248740B1
Production of 6-[2-[4-(diphenylmethyl)piperazino-carbonyloxyl]ethoxy][1,2,4]triazolo[1,5-b]pyridazine
6-(2-Hydroxyethoxy)[1,2,4]triazolo[1,5-b]pyridazine (450 mg) was dissolved in tetrahydrofuran (20 ml), followed by addition of carbonyldiimidazole (649 mg). The mixture was stirred at room temperature for 3 hours, followed by addition of 1-(diphenylmethyl)piperazine (1.07 g) and N-ethyldiisopropylamine (0.73 ml). The mixture was stirred at 60° C. for 17 hours and concentrated under reduced pressure. Ice-water was added to the residue, followed by extraction with ethyl acetate. The extract was washed with an aqueous sodium chloride saturated solution, dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica-gel column chromatography and eluted with a mixture of ethyl acetate and hexane (1:1). Fractions containing the objective compound were collected and concentrated. The resulting crystals were recrystalized from ethyl acetate to yield the title compound (464 mg).

reactant | 6-(2-Hydroxyethoxy)[1,2,4]triazolo[1,5-b]pyridazine | 450 mg | OCCOC=1C=CC=2N(N1)N=CN2 | C7H8N4O2
reactant | carbonyldiimidazole | 649 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1-(diphenylmethyl)piperazine | 1.07 g | C1(=CC=CC=C1)C(N1CCNCC1)C1=CC=CC=C1 | C17H20N2
reactant | N-ethyldiisopropylamine | 0.73 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 6-[2-[4-(diphenylmethyl)piperazino-carbonyloxyl]ethoxy][1,2,4]triazolo[1,5-b]pyridazine | 464 mg | C1(=CC=CC=C1)C(N1CC(NCC1)C(=O)OCCOC=1C=CC=2N(N1)N=CN2)C2=CC=CC=C2 | C25H26N6O3
